US05072001
(R)-8-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-7-{3-[1-methyl-1-(methylamino)ethyl]-1-pyrrolidinyl}-4-oxo-3-quinolinecarboxylic acid, monohydrochloride
A solution of 0.42 g (1.40 mmol) of 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.27 g (1.90 mmol) of (3R)-(1'-methyl-1'-methylaminoethyl)pyrrolidine (11a), 0.43 g (4.3 mmol) of triethylamine and 50 mL of acetonitrile was heated at reflux for 32 hours. The reaction was concentrated in vacuo and the residue was suspended in water. The pH was adjusted to 12.0 and the solution was filtered through a fiber glass pad to clarify. The filtrate was acidified to pH 2.0 with 6.0M hydrochloric acid, filtered, and the filtrate lyophilized. The residue was suspended in 10 mL of 12.0M hydrochloric acid and filtered. The filtrate was concentrated in vacuo and the residue was removed by filtration, washed with 2-propanol, ether, and dried in vacuo to give 0.22 g of the title compound, mp 270°-273° C.

reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.40 mmol, 0.42 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
reactant | triethylamine | 4.3 mmol, 0.43 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (R)-8-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-7-{3-[1-methyl-1-(methylamino)ethyl]-1-pyrrolidinyl}-4-oxo-3-quinolinecarboxylic acid, monohydrochloride | 0.22 g | Cl.ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H](CC1)C(C)(NC)C | InChI=1S/C21H25ClFN3O3.ClH/c1-21(2,24-3)11-6-7-25(9-11)18-15(23)8-13-17(16(18)22)26(12-4-5-12)10-14(19(13)27)20(28)29;/h8,10-12,24H,4-7,9H2,1-3H3,(H,28,29);1H/t11-;/m1./s1
